US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using (S)-4-(benzyloxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid methyl ester (450 mg) and potassium carbonate (317 mg), the objective (S)-4-(benzyloxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid (425 mg) was obtained as colorless crystals.

reactant | (S)-4-(benzyloxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid methyl ester | 450 mg | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OCC1=CC=CC=C1)Cl | C19H18ClNO4S
reactant | potassium carbonate | 317 mg | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-(benzyloxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid | 425 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)Cl)C(=O)O | C18H16ClNO4S
